US06184225B2
4-Chloro-6,7-dimethoxyquinazoline hydrochloride (210 mg, 0.8 mmol), (prepared as described for the starting material in Example 1 but without the aqueous work up), and 4-chloro-2,6-difluoroaniline hydrochloride (177 mg, 0.89 mmol) in isopropanol (8 ml) were heated at reflux for 2 hours. The reaction mixture was then allowed to cool, hexane added and the precipitated product collected by filtration, washed with isopropanol and dried to give 4-(4-chloro-2,6-difluoroanilino)-6,7-dimethoxyquinazoline hydrochloride (45 mg, 16%).

reactant | 4-Chloro-6,7-dimethoxyquinazoline hydrochloride | 0.8 mmol, 210 mg | Cl.ClC1=NC=NC2=CC(=C(C=C12)OC)OC
reactant | 4-chloro-2,6-difluoroaniline hydrochloride | 0.89 mmol, 177 mg | Cl.ClC1=CC(=C(N)C(=C1)F)F
reactant | hexane | CCCCCC | C6H14
solvent | isopropanol | 8 ml | C(C)(C)O | C3H8O
product | 4-(4-chloro-2,6-difluoroanilino)-6,7-dimethoxyquinazoline hydrochloride | 45 mg, 16% | Cl.ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OC)C(=C1)F)F | InChI=1S/C16H12ClF2N3O2.ClH/c1-23-13-5-9-12(6-14(13)24-2)20-7-21-16(9)22-15-10(18)3-8(17)4-11(15)19;/h3-7H,1-2H3,(H,20,21,22);1H
